* source 7-1
V_V2         +15V 0 15Vdc
V_V3         0 -15V 15Vdc
X_U1         N03209 N03653 +15V -15V N030594 LM741
R_R1         N030594 N03585  2k TC=0,0 
R_R2         N03653 N03585  10k TC=0,0 
R_R3         N03209 N03585  100k TC=0,0 
R_R4         0 N03209  100k TC=0,0 
C_C1         0 N03653  0.1u  TC=0,0 
D_D3         0 N039501 D1N4734 
D_D4         N03585 N039501 D1N4734 
