* source 7-2
R_R1         N042374 N04393  2k TC=0,0 
X_U1         N04285 N04439 +15V -15V N042374 LM741
C_C1         0 N04439  0.1u  TC=0,0 
R_R4         0 N04285  100k TC=0,0 
D_D4         N04393 N044871 D1N4734 
V_V2         +15V 0 15Vdc
V_V3         0 -15V 15Vdc
R_R2         N04439 N04754  2k TC=0,0 
D_D3         0 N044871 D1N4734 
R_R3         N04285 N04393  100k TC=0,0 
D_D5         N04754 N04393 D1N4007 
D_D6         N04929 N04754 D1N4007 
R_R5         N04929 N04393  100k TC=0,0 
