* source 7-3
D_D4         N04393 N044871 D1N4734 
X_U1         N04285 0 +15V -15V N042374 LM741
D_D3         0 N044871 D1N4734 
R_R3         N04285 N04393  100k TC=0,0 
V_V2         +15V 0 15Vdc
R_R1         N042374 N04393  2k TC=0,0 
V_V3         0 -15V 15Vdc
X_U2         0 N04793 +15V -15V N04899 LM741
R_R4         N04393 N04793  155k TC=0,0 
R_R5         N04285 N04899  16.13k TC=0,0 
C_C1         N04793 N04899  0.01u  TC=0,0 
