* source 7-4
X_U1         N05583 0 +15V -15V N055354 LM741
D_D4         N05627 N056891 D1N4734 
R_R3         N05583 N05627  100k TC=0,0 
V_V3         0 -15V 15Vdc
D_D3         0 N056891 D1N4734 
C_C1         N05769 N05851  0.1u  TC=0,0 
X_U2         0 N05769 +15V -15V N05851 LM741
R_R1         N055354 N05627  2k TC=0,0 
V_V2         +15V 0 15Vdc
R_R5         N05583 N05851  16.13k TC=0,0 
D_D5         N05627 N05769 D1N4007 
R_R6         N06152 N05769  73k TC=0,0 
R_R7         -15V N06152  2k TC=0,0 
