* source 7-5
V_V3         0 -15V 15Vdc
V_V2         +15V 0 15Vdc
X_U1         N06126 N06341 +15V -15V N06107 LM741
C_C1         N06126 N059941  0.01u  TC=0,0 
C_C2         0 N06126  0.01u  TC=0,0 
R_R2         0 N06126  10k TC=0,0 
R_R3         0 N06341  4.7k TC=0,0 
R_R4         N059941 N06107  10k TC=0,0 
R_R5         N06341 N06476  10k TC=0,0 
R_R6         N06476 N06107  4.7k TC=0,0 
D_D1         N06476 N06107 D1N4007 
D_D2         N06107 N06476 D1N4007 
