* source 7-6
X_U1         N07137 0 +15V -15V N070894 LM741
C_C1         N07323 N07405  0.01u  TC=0,0 
D_D4         N07181 N072431 D1N4734 
X_U2         0 N07323 +15V -15V N07405 LM741
R_R3         N07137 N07181  100k TC=0,0 
R_R1         N070894 N07181  2k TC=0,0 
R_R5         N07137 N07405  33k TC=0,0 
V_V3         0 -15V 15Vdc
V_V2         +15V 0 15Vdc
D_D3         0 N072431 D1N4734 
R_R4         N07181 N07323  75k TC=0,0 
