* source 1
V_V3         0 -15V 15Vdc
V_V2         +15V 0 15Vdc
X_U1         N02315 N02190 +15V -15V N02053 LM741
R_R1         N02194 N02190  20k TC=0,0 
R_R2         N02190 N02053  100k TC=0,0 
R_R3         N02315 0  20k TC=0,0 
R_R4         N02315 0  100k TC=0,0 
V_V4         N02194 0  
+SIN 0 1 50 0 0 0
