* source 10
R_R1         0 N09801  10k TC=0,0 
V_V4         N09791 0  
+SIN 0 4 1k 0 0 0
V_V3         0 -15V 15Vdc
V_V2         +15V 0 15Vdc
R_R2         N09791 N09691  10k TC=0,0 
X_U1         N09801 N09691 +15V -15V N09697 LM741
R_R3         N09801 N09697  100k TC=0,0 
R_R4         N09697 N10120  4.7k TC=0,0 
D_D1         N112370 N10120 D1N4684 
D_D2         N112370 0 D1N4684 
