* source 2
V_V4         N03323 0  
+SIN 0 1 50 0 0 0
X_U1         N03285 N03211 +15V -15V N03159 LM741
R_R4         N03285 N03323  100k TC=0,0 
R_R3         N03285 N03323  20k TC=0,0 
V_V3         0 -15V 15Vdc
R_R1         0 N03211  20k TC=0,0 
R_R2         N03211 N03159  100k TC=0,0 
V_V2         +15V 0 15Vdc
