* source 3
X_U1         N04320 N03919 +15V -15V N03867 LM741
V_V2         +15V 0 15Vdc
R_R1         N04083 N03919  10k TC=0,0 
V_V4         N04029 0  
+SIN 0 1.2 50 0 0 0
V_V3         0 -15V 15Vdc
R_R2         N03919 N03867  100k TC=0,0 
V_V5         N04083 0  
+SIN 0 0.5 50 0 0 0
R_R3         N04029 N04320  10k TC=0,0 
R_R4         N04320 0  100k TC=0,0 
