* source 4
V_V2         +15V 0 15Vdc
R_R1         N04977 N04883  10k TC=0,0 
R_R2         N04883 N04837  20k TC=0,0 
V_V3         0 -15V 15Vdc
X_U1         N05057 N04883 +15V -15V N04837 LM741
R_R3         0 N05057  4k TC=0,0 
V_V5         N04977 0  
+SIN 0 2 50 0 0 0
V_V6         N05269 0  
+SIN 0 0.5 50 0 0 0
R_R4         N05269 N04883  10k TC=0,0 
