* source 5
V_V3         0 -15V 15Vdc
R_R3         N05948 N06018  10k TC=0,0 
X_U1         N06018 N06290 +15V -15V N05846 LM741
R_R2         N06290 N05846  10k TC=0,0 
V_V2         +15V 0 15Vdc
V_V5         N05948 N059801  
+SIN 0 0.3 50 0 0 0
R_R4         0 N05846  50 TC=0,0 
V_V6         N059801 0 1Vdc
