* source 7
R_R2         N07945 N08170  100 TC=0,0 
V_V3         0 -15V 15Vdc
V_V4         N07945 0  
+PULSE -1 1 0.1ms 0.5ms 0.5ms 0 1ms
V_V2         +15V 0 15Vdc
R_R3         0 N07859  10k TC=0,0 
X_U1         N07859 N08157 +15V -15V N07777 LM741
C_C1         N08170 N08157  0.01u  TC=0,0 
R_R4         N08157 N07777  10k TC=0,0 
