* source 8
X_U1         N09099 N08861 +15V -15V N08911 LM741
V_V3         0 -15V 15Vdc
V_V2         +15V 0 15Vdc
R_R1         0 N09099  10k TC=0,0 
R_R2         N09051 N08861  10k TC=0,0 
V_V4         N09051 0  
+SIN 0 1 1k 0 0 0
