* source 9
X_U1         N09604 N09494 +15V -15V N09500 LM741
V_V2         +15V 0 15Vdc
V_V3         0 -15V 15Vdc
R_R1         N09933 N09604  1k TC=0,0 
V_V5         N09494 0  
+PULSE -5 5 0.1ms 0.5ms 0.5ms 0 1ms
R_R2         N09604 N09500  10k TC=0,0 
V_V6         N09933 0 0Vdc
